US07585880B2
ethyl (2Z)-3-[4-(benzyloxy)phenyl]-2-fluoroacrylate
A solution of triethyl 2-fluoro-2-phosphonoacetate (4.90 g, 20.2 mmol) in tetrahydrofuran (40 mL) was stirred under a nitrogen atmosphere at 0° C., and 1.6 M n-butyl lithium/hexane solution (13.1 mL, 21.0 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 30 min and a solution of 4-benzyloxybenzaldehyde (4.29 g, 20.2 mmol) in tetrahydrofuran (20 mL) was added dropwise. The obtained mixture was stirred at room temperature for 3 hr and ice-cooled aqueous ammonium chloride solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:97-20:80) to give the title compound (4.90 g, yield 81%) as a yellow oil.

reactant | triethyl 2-fluoro-2-phosphonoacetate | 20.2 mmol, 4.90 g | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyl lithium hexane | 21.0 mmol, 1.6 M, 13.1 mL | C(CCC)[Li].CCCCCC
reactant | 4-benzyloxybenzaldehyde | 20.2 mmol, 4.29 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl (2Z)-3-[4-(benzyloxy)phenyl]-2-fluoroacrylate | 4.90 g, yield 81% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C(\C(=O)OCC)/F | C18H17FO3
